US08076345B2
2-(4-(Benzo[d][1,3]dioxol-5-ylmethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (100 mg, 0.35 mmol) and piperonylamine (120 mg, 0.79 mmol) in acetonitrile (1 mL) and N,N-diisopropylethylamine (400 μL) was subjected to microwave irradiation at 185° C. for 3 h. The reaction mixture was concentrated and the residue was purified by preparative HPLC (100×20.2 mm, C18 column; 30-60% acetonitrile-water [10 mM Et2NH]) to afford a light yellow solid.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 0.35 mmol, 100 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | piperonylamine | 0.79 mmol, 120 mg | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | N,N-diisopropylethylamine | 400 μL | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-(4-(Benzo[d][1,3]dioxol-5-ylmethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | O1COC2=C1C=CC(=C2)CNC=2C1=C(N=CN2)CCN(C1)C1=C(C#N)C=C(C=C1)C | C23H21N5O2
